US04868174
To a suspension of 7-benzoylamino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate (15 g) in a mixture of dichloromethane (300 ml) and N,N-dimethylaniline (41.7 g) was added dropwise trimethylsilyl chloride (31.2 g) at 5° C. After being stirred for 1 hour at 5°-10° C., the mixture was cooled up to -30° C. and then phosphorus pentachloride (11.9 g), was added thereto. After the mixture was stirred for 1 hour at -20°~-30° C., a mixture of isobutyl alcohol (21.2 g) and 1,3-propanediol (21.8 g) is dichloromethane (150 ml) cooled at -30° C. was added to the reaction mixture. The mixture was stirred for 1 day at room temperature to give a residue, which was collected by filtration, washed with dichloromethane, acetone and diisopropyl ether successively and dried over phosphorus pentoxide to give 7-amino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate dihydrochloride.

reactant | 7-benzoylamino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate | 15 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)[O-])C1=O | C20H23N3O4S
reactant | trimethylsilyl chloride | 31.2 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | phosphorus pentachloride | 11.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1,3-propanediol | 21.8 g | C(CCO)O | C3H8O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylaniline | 41.7 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | isobutyl alcohol | 21.2 g | C(C(C)C)O | C4H10O
product | 7-amino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate dihydrochloride | Cl.Cl.NC1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)[O-])C1=O | InChI=1S/C13H19N3O3S.2ClH/c1-16(4-2-3-5-16)6-8-7-20-12-9(14)11(17)15(12)10(8)13(18)19;;/h9,12H,2-7,14H2,1H3;2*1H/t9?,12-;;/m1../s1
